US06710055B2
1-Methyl-2-[(4-amidinophenyl)oxymethyl]benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)amide dihydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[(4-cyanophenyl)oxymethyl]benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)amide and ethanolic hydrochloric acid, ethanol, and ammonium carbonate. Yield: 44% of theory, C26H26N6O4 (486.5); Rf value: 0.12 (silica gel; dichloromethane/ethanol=4:1); EKA mass spectrum: (M+H)+=487; (M+2H)++=244; (M+H+Na)++=255.

reactant | 1-methyl-2-[(4-cyanophenyl)oxymethyl]benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C#N)C)C=C1)CC(=O)OCC | C26H23N5O4
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[(4-amidinophenyl)oxymethyl]benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)amide dihydrochloride | Yield: 44% | Cl.Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C(N)=N)C)C=C1)CC(=O)OCC | InChI=1S/C26H26N6O4.2ClH/c1-3-35-24(33)15-32(22-6-4-5-13-29-22)26(34)18-9-12-21-20(14-18)30-23(31(21)2)16-36-19-10-7-17(8-11-19)25(27)28;;/h4-14H,3,15-16H2,1-2H3,(H3,27,28);2*1H
